### PR TITLE
Uniform structures and boundedness

### PR DESCRIPTION
**Pull request by PatrickMassot**
The main point of this PR is to define the uniform structure on topological rings. This allows to unsorry the definition of `is_complete`. It defines basic boundedness properties.

### CODE REVIEW

**Comment by PatrickMassot** [comment]
For the record: this involved some set manipulation help from Reid Barton (see Zulip on June 9th at 16:30).

File: src/adic_space.lean [hunk 1]
```diff
@@ -8,11 +8,132 @@ import for_mathlib.topology
...
+section comm_ring
+variables (R : Type) [comm_ring R]
+-- This section is filled in in Johan's PR
+definition is_subring {R : Type} [comm_ring R] : set R → Prop := sorry 
+definition is_integrally_closed {R : Type} [comm_ring R] : set R → Prop := sorry  
+end comm_ring
+
+section topological_ring
+
+variables (R : Type*) [comm_ring R] [topological_space R] [comm_ring R] [topological_ring R]
```
Comment (jcommelin) [inline src/adic_space.lean]: You have `[comm_ring R]` twice.

File: src/adic_space.lean [hunk 2]
```diff
@@ -8,11 +8,132 @@ import for_mathlib.topology
...
+  have aux : { r : R | -r ∈ V } = (λ a, -a) '' V, by simp[set.image, neg_eq_iff_neg_eq],
+  simpa [filter.mem_map, aux] using almost
+end
+
+-- peredicates we need for topological rings
+
+-- Following is copy-pasted from t2_space class.
+-- We need to think whether we could directly use that class
+definition is_hausdorff (α : Type*) [topological_space α] : Prop := 
+  ∀x y, x ≠ y → ∃u v : set α, is_open u ∧ is_open v ∧ x ∈ u ∧ y ∈ v ∧ u ∩ v = ∅
```
Comment (jcommelin) [inline src/adic_space.lean]: I would prefer uppercase for the open subsets. But of course that is only a matter of notation. Also, does it make sense to use `opens X` in this case?

File: src/adic_space.lean [hunk 3]
```diff
@@ -8,11 +8,132 @@ import for_mathlib.topology
...
+definition is_integrally_closed {R : Type} [comm_ring R] : set R → Prop := sorry  
+end comm_ring
+
+section topological_ring
+
+variables (R : Type*) [comm_ring R] [topological_space R] [comm_ring R] [topological_ring R]  
+
+def nhd_zero := (nhds (0 : R)).sets
+variable {R}
+lemma nhd_zero_symmetric {V : set R} : V ∈ nhd_zero R →  (λ a, -a) '' V ∈ nhd_zero R :=
```
Comment (jcommelin) [inline src/adic_space.lean]: This doesn't use the ring structure, right? Should we just prove it for additive topological groups?

File: src/adic_space.lean [hunk 4]
```diff
@@ -8,11 +8,132 @@ import for_mathlib.topology
...
+variable (R)
+/-- Wedhorn Definition 5.31 page 38 -/
+definition is_complete : Prop := is_hausdorff R ∧ ∀ {f:filter R}, cauchy f → ∃x, f ≤ nhds x
+
+variable {R}
+/-- Wedhorn Definition 5.27 page 36 -/
+definition is_bounded 
+  (B : set R) : Prop := ∀ U ∈ nhd_zero R, ∃ V ∈ nhd_zero R, ∀ v ∈ V, ∀ b ∈ B, v*b ∈ U
+
+def power_set (r : R) : set R := set.range (λ n : ℕ, r^n)
```
Comment (jcommelin) [inline src/adic_space.lean]: This sounds a lot like "powerset" from basic set theory. Is it an idea to call this merely `powers`? Otherwise, I think it is good to at least include a user comment
```lean
/-- power_set r is the subset of the ring R consisting of all powers of r -/
```

File: src/adic_space.lean [hunk 5]
```diff
@@ -8,11 +8,132 @@ import for_mathlib.topology
...
+theorem p_is_power_bounded [p : Prime] : is_power_bounded (p : power_bounded_subring R) := sorry
+
+variable {R}
+definition is_pseudo_uniformizer : R → Prop := sorry
+end topological_ring
 
 -- Schol= : "Recall that a topological ring R is Tate if it contains an
 -- open and bounded subring R0 ⊂ R and a topologically nilpotent unit pi ∈ R; such elements are
--- called pseudo-uniformizers.""
+-- called pseudo-uni7formizers.""
```
Comment (jcommelin) [inline src/adic_space.lean]: Something went wrong here?

File: src/adic_space.lean [hunk 6]
```diff
@@ -8,7 +8,63 @@ import for_mathlib.topology
...
+definition is_integrally_closed {R : Type} [comm_ring R] : set R → Prop := sorry  
+end comm_ring
+
+section topological_ring
+
+-- The following two lines are a nasty hack to switch between having the carrier 
+-- Type implicit or explicit.
+variables (R : Type) [comm_ring R] [topological_space R] [comm_ring R] [topological_ring R]  
+variables {A : Type} [comm_ring A] [topological_space A] [comm_ring A] [topological_ring A]  
+
```
Comment (kbuzzard) [inline src/adic_space.lean]: Did you mean to have `comm_ring` twice in these definitions?

File: src/adic_space.lean [hunk 7]
```diff
@@ -8,7 +8,63 @@ import for_mathlib.topology
...
+definition is_hausdorff (α : Type*) [topological_space α] : Prop := 
+  ∀x y, x ≠ y → ∃u v : set α, is_open u ∧ is_open v ∧ x ∈ u ∧ y ∈ v ∧ u ∩ v = ∅
+
+open filter
+instance toplogical_ring.to_uniform_space : uniform_space R := 
+uniform_space.of_core { uniformity  := (⨅ U ∈ nhd_zero R, principal {p : R×R | p.2 - p.1 ∈ U}),
+                        refl        := begin simp, intros i H r, exact mem_of_nhds H end,
+                        symm        := sorry,
+                        comp        := sorry }
+
```
Comment (kbuzzard) [inline src/adic_space.lean]: Patrick I'm rather relieved you've stepped in here to unravel the uniform spaces and filters. But what are these sorrys?

File: src/adic_space.lean [hunk 8]
```diff
@@ -8,7 +8,63 @@ import for_mathlib.topology
...
+def power_set (r : A) : set A := set.range (λ n : ℕ, r^n)
+
+definition is_power_bounded (r : A) : Prop := is_bounded (power_set r)
+
+-- Somehow we need R° both as a subset of R and a subtype. 
+-- There is a coercion from the set to the subtype but relying naively on it seems to bring 
+-- type class resolution issues
+definition power_bounded_subring := {r : R // is_power_bounded r}
+definition power_bounded_subring_set := {r : R | is_power_bounded r}
+
```
Comment (kbuzzard) [inline src/adic_space.lean]: Is this definitely what we're supposed to be doing? Chris Hughes seemed to be advocating the standard CS "asymmetric" approach where one of these types is deemed to be the "best" one and should be used if at all possible, and coercions should handle all the others.

**Review by kbuzzard — COMMENTED** [review]
mostly questions

File: src/adic_space.lean [hunk 9]
```diff
@@ -8,7 +8,128 @@ import for_mathlib.topology
...
+  rcases mem_prod_iff.1 nhdb_in_prod with ⟨V₁, H₁, V₂, H₂, H⟩,
+  have H12: V₁ ∩ V₂ ∈ (nhds (0 : α)).sets := inter_mem_sets H₁ H₂,    
+  existsi [(V₁ ∩ V₂), H12],
+  intros v w Hv Hw,
+  have : (v,w) ∈ set.prod V₁ V₂, by finish,
+  simpa using H this
+end
+
+
+instance toplogical_ring.to_uniform_space : uniform_space R :=
```
Comment (jcommelin) [inline src/adic_space.lean]: Is this going to create a diamond-like problem for the type class system? We now have `topological_ring → topological_space` and now also the composition `topological_ring → uniform_space → topological_space`. I don't think they are defeq. Is this a problem?

File: src/adic_space.lean (hunk 4 above)
Comment (kbuzzard) [reply src/adic_space.lean]: Kenny calls them `powers` in his ring theory stuff I think (we localise at the multiplicative set `powers f` IIRC)

File: src/adic_space.lean (hunk 5 above)
Comment (kbuzzard) [reply src/adic_space.lean]: Schol= -> Scholze as well (this was my fault)

File: src/adic_space.lean [hunk 10]
```diff
@@ -8,7 +8,128 @@ import for_mathlib.topology
...
+end comm_ring
+
+section topological_ring
+
+variables (R : Type*) [comm_ring R] [topological_space R] [topological_ring R]  
+
+def nhd_zero := (nhds (0 : R)).sets
+variable {R}
+lemma nhd_zero_symmetric {V : set R} : V ∈ nhd_zero R →  (λ a, -a) '' V ∈ nhd_zero R :=
+begin
```
Comment (kbuzzard) [inline src/adic_space.lean]: Do you think there's a simpler proof just saying "neg is continuous"?

File: src/adic_space.lean [hunk 11]
```diff
@@ -8,7 +8,128 @@ import for_mathlib.topology
...
+  existsi [(V₁ ∩ V₂), H12],
+  intros v w Hv Hw,
+  have : (v,w) ∈ set.prod V₁ V₂, by finish,
+  simpa using H this
+end
+
+
+instance toplogical_ring.to_uniform_space : uniform_space R := 
+uniform_space.of_core { 
+  uniformity  := (⨅ U ∈ nhd_zero R, principal {p : R×R | p.2 - p.1 ∈ U}),
```
Comment (kbuzzard) [inline src/adic_space.lean]: It says in the docstring of uniform_space that a topological group has a uniform structure. Do you think this might already be proved in mathlib? If so, we could just apply it to the underlying additive group of R, right?

File: src/adic_space.lean [hunk 12]
```diff
@@ -8,7 +8,128 @@ import for_mathlib.topology
...
+      exact comprel,
+      apply mem_infi_sets U,
+      apply mem_infi_sets h,
+      simp
+    end }
+
+variable (R)
+/-- Wedhorn Definition 5.31 page 38 -/
+definition is_complete : Prop := is_hausdorff R ∧ ∀ {f:filter R}, cauchy f → ∃x, f ≤ nhds x
+
```
Comment (kbuzzard) [inline src/adic_space.lean]: Do you think the definition of Cauchy in mathlib coincides with the definition in Wedhorn? Wedhorn's definition relies on the topological group structure.

**Comment by PatrickMassot** [comment]
I've completely redone the uniform space stuff. Now it is defined for commutative topological groups and gives back the original topology. I also addressed the minor comments. It should be ready for merge.
